US08022062B2
Combine 7-chloro-6-(4-tert-butylcarbamoyl-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (53 mg, 0.13 mmol) with 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide (Lawesson's reagent) (53 mg, 0.13 mmol) in anhydrous 1,4-dioxane (1 mL) in a sealed tube and heat at 100° C. for 2 h. Cool the reaction mixture to room temperature, concentrate in vacuo and purify the residue by SCX chromatography to obtain 7-chloro-6-(4-tert-butylthiocarbamoyl-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine as a yellow oil. Purify by reverse phase preparative HPLC [Zorbax SB-Phenyl 21.2×250 mm, 5 micron, 22 mL/min of 0.1% aqueous HCl/acetonitrile (9:1 to 1:9) over 30 min, detector at 230 nm].

reactant | 7-chloro-6-(4-tert-butylcarbamoyl-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.13 mmol, 53 mg | ClC1=C(C2=C(CCNCC2)C=C1)SCC1=CC=C(C=C1)C(NC(C)(C)C)=O | C22H27ClN2OS
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 0.13 mmol, 53 mg | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 7-chloro-6-(4-tert-butylthiocarbamoyl-benzylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | ClC1=C(C2=C(CCNCC2)C=C1)SCC1=CC=C(C=C1)C(NC(C)(C)C)=S | C22H27ClN2S2
